Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
NSAIDS / lisinopril / Penicillins
 
Attending: ___
 
Chief Complaint:
polyuria, polydipsia
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with a PMH significant for CKD, "glucose intolerance," 
HTN and migraines who presents with four days of polyuria, 
polydipsia and lower extremity muscle cramping. He states that 
he was in his usual state of health until a few weeks ago when 
he began having some general vague symptoms of malaise when he 
was under a great deal of stress. His wife noticed that he was 
pale, somewhat weak and sleeping more. This coincided with 
stress from multiple deaths in the family, as well as poor 
nutrition as the patient had stopped watching what he eats.  

Four days ago, he notes that he began having markedly increased 
thirst and drinking more-- approximately 2 gallons per day which 
was accompanied by increased urinary frequency of dilute looking 
urine. He also began developing muscle cramps in his bilateral 
feet and lower legs, which were relieved with increased fluid 
intake. This afternoon the patient felt lightheaded and like he 
was going to pass out, and called his PCP who recommended he 
present to the ED.  

In the ED, initial vitals 97.4 96 140/95 20 96% RA. On physical 
exam, patient was mentating well without specific complaints. He 
had normal motor strength.  Labs were notable for WBC 14.2, Na 
129 -> 130, Cr 1.5 (at baseline), pH 7.5, gluc 624, neg urine 
ketones. No imaging was performed and pt was given "insulin 5 
units x1" and was started on 1L NS.

On the floor, VS afebrile, 160/100, 80, 100% on RA. Patient 
reported no additional complaints.  Denied any recent vision 
changes, headaches, chest pain or palpitations, and no SOB.  He 
has had some tingling in his RUE at times, no problems with 
decreased sensation/ulcerations/infection of his BLE.
 
Review of systems:  
(+) Per HPI  
(-) Denies fever, chills, night sweats, recent weight loss or 
gain. Denies headache, sinus tenderness, rhinorrhea or 
congestion. Denies shortness of breath, cough, dyspnea or 
wheezing. Denies chest pain, chest pressure, palpitations. 
Denies constipation, abdominal pain, diarrhea, dark or bloody 
stools. Denies dysuria or urgency. Denies arthralgias. Denies 
rashes or skin changes.  
 
Past Medical History:
CKD stage ___
HTN  
Migraines  
DMII (HbA1C > 6.5% since ___  
Hyperlipidemia
obesity
Metabolic syndrome  
Depression  

 
Social History:
___
Family History:
Mother - SLE, COPD, thrombocytopenia, ?kidney surgery, deceased  

Father - DM ___ diagnosed in early ___. 
Sister - HTN  
No CA, CAD, Stroke  

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals: afebrile, 160/100, 80, 100% on RA  
GENERAL: NAD, sitting up in bed comfortably, awake and alert  
HEENT: NCAT, MMM, EOMI    
CARDIAC: RRR, nl S1 S2, no MRG  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use 
 
ABDOMEN: soft, NTND, normoactive bowel sounds  
EXT: warm and well-perfused, no cyanosis, clubbing or edema, no 
ulcerations, no decreased sensation of BLE  
PULSES: 2+ DP pulses bilaterally  
NEURO: AOx3, gait normal, moving all extremities spontaneously  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes

DISCHARGE PHYSICAL EXAM:
Vitals: 98.3, 154/79, 76, 22, 98% on RA
GENERAL: NAD, lying in bed comfortably, awake and alert  
HEENT: NCAT, MMM, EOMI    
CARDIAC: RRR, nl S1 S2, no MRG  
LUNG: CTAB, no rales wheezes or rhonchi, no accessory muscle use 
 
ABDOMEN: soft, NTND, normoactive bowel sounds  
EXT: warm and well-perfused, no cyanosis, clubbing or edema, no 
ulcerations, no decreased sensation of BLE  
PULSES: 2+ DP pulses bilaterally  
NEURO: AOx3, moving all extremities spontaneously  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  
 
Pertinent Results:
___ 03:10PM   GLUCOSE-624* UREA N-25* CREAT-1.5* 
SODIUM-129* POTASSIUM-3.9 CHLORIDE-89* TOTAL CO2-26 ANION GAP-18
___ 03:10PM   WBC-14.2* RBC-5.35 HGB-15.6 HCT-46.2 MCV-86 
MCH-29.1 MCHC-33.7 RDW-12.4
___ 03:10PM   NEUTS-66.4 ___ MONOS-5.4 EOS-0.9 
BASOS-0.4
___ 04:21PM   ___ TEMP-36.7 PO2-99 PCO2-36 PH-7.50* 
TOTAL CO2-29 BASE XS-5 INTUBATED-NOT INTUBA

___ 04:50PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-1000 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 04:50PM URINE  COLOR-Straw APPEAR-Clear SP ___

___ 01:00PM BLOOD Glucose-240* UreaN-16 Creat-1.1 Na-138 
K-3.7 Cl-103 HCO3-25 AnGap-14

___ 08:05AM BLOOD %HbA1c-10.7* eAG-260*
___ 08:05AM BLOOD Osmolal-298

___ 07:05AM BLOOD Glucose-299* UreaN-16 Creat-1.1 Na-134 
K-4.1 Cl-101 HCO3-25 AnGap-12
___ 07:05AM BLOOD Calcium-8.7 Phos-2.5* Mg-1.___ M with a PMH significant for CKD, "glucose intolerance," 
HTN and migraines who presents with four days of polyuria, 
polydipsia, and hyperglycemia to 624 concerning for hyperosmolar 
hyperglycemic nonketotic syndrome.  

ACTIVE ISSUES:
# HHNK - Has had two HbA1C values above 6.5%, therefore 
qualifying him for a diagnosis of diabetes. Repeat HbA1c during 
this hospitalization was 10.7%.  Pt received IV NS boluses and 
maintenance IVF as well as aggressive electrolyte repletion as 
he was experiencing muscle cramps on presentation.  He was 
evaluated by ___ for his new diabetes diagnosis and it was 
thought that he would benefit from insulin, not just oral 
medication.  He was started on Lantus 30u in the am + HISS.  He 
will be discharged on Lantus 30 u in the am as well as 
metformin.  He will have close f/u with ___.  He was also 
seen by Nutrition for further dietary education. 

CHRONIC ISSUES:
# CKD ___ - presumed secondary to HTN and DMII. Baseline Cr 
appears to be around 1.3-1.4 since ___.  The patient received 
MIVF per above.  

# HTN - Continued amlodipine, losartan-hydrochlorothiazide.  

# Migraines - Stable. Previously on sumatriptan which he did not 
require in-house. 

*****TRANSITIONAL ISSUES*****
-Will have f/u with ___ for further titration of insulin 
regimen and education.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amlodipine 5 mg PO DAILY 
2. Losartan Potassium 100 mg PO DAILY 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Sumatriptan Succinate 50 mg PO DAILY PRN headache 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Losartan Potassium 100 mg PO DAILY 
4. Sumatriptan Succinate 50 mg PO DAILY PRN headache 
5. Glargine 30 Units Breakfast
Insulin SC Sliding Scale using HUM Insulin
6. MetFORMIN XR (Glucophage XR) 500 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
hyperosmolar hyperglycemic state

Secondary:
DMII uncontrolled
Hypertension
hyperlipidemia
obesity
metabolic syndrome
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had very high 
blood sugars.  You have a new diagnosis of diabetes.  You were 
treated with IV fluids since you were very dehydrated.  You also 
received insulin.  You were evaluated by ___ endocrinologists 
who recommended that you start taking medication at home to 
treat your diabetes.  You were also evaluated by Nutrition who 
educated you on following a diabetic diet.

You will go home with insulin as well as metformin.  You will be 
taking your insulin (Lantus) 30 units each day.  Please see 
below for the timing of your Lantus dosing:
___ Noon
___ 3:00 pm
___ 6:00 pm
___ 9:00 pm
___ and thereafter, please take Lantus at bedtime.

Please follow-up as instructed with your outpatient providers.

Thank you for allowing us to participate in your care.  
 
Followup Instructions:
___